US06235785B1
A. Preparation of 4-fluoro-2-(3-hydroxy-2-propyl-phenoxy)benzoic acid methyl ester
To a solution of 2-propylresorcinol (10.0 g, 65.7 mmol) in pyridine (120 mL) was added potassium tert-butoxide (7.00 g, 62.5 mmol) at room temperature with stirring. To this was added a mixture of methyl 2-bromo-4-fluorobenzoate (7.60 g, 32.6 mmol) and copper(I) iodide (12.5 g, 65.7 mmol) in pyridine (120 mL). The resulting mixture was gently refluxed for 4 hours. The reaction was cooled to room temperature and stirred for 18 hours. The mixture was concentrated in vacuo and the resulting material dissolved in ethyl ether. The solution was washed once with 5N aqueous hydrochloric acid. The aqueous layer was extracted once with fresh ethyl ether and the combined organic layers were washed twice with 5N aqueous ammonium hydroxide. The organic layer was washed once with a saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo. Silica gel chromatography of the resulting residue provided 1.45 g (15%) of the desired intermediate product as a light tan solid: mp 92-94° C.; NMR (CDCl3) 7.95 (m, 1H), 7.04 (t, J=9.5 Hz, 1H), 6.79 (t, J=9 Hz, 1H), 6.65 (d, J=9.5 Hz, 1H), 6.50 (m, 2H), 5.25 (bs, 1H, —OH), 3.88 (s, 3H), 2.60 (t, J=8.7 Hz, 2H), 1.55 (hextet, J=7.8 Hz, 2H), 0.92 (t, J=7.8 Hz, 3H); MS-FD m/e 305 (p+1, 40), 304 (p, 100); IR.

reactant | 2-propylresorcinol | 65.7 mmol, 10.0 g | C(CC)C1=C(O)C=CC=C1O | C9H12O2
reactant | potassium tert-butoxide | 62.5 mmol, 7.00 g | CC(C)([O-])C.[K+]
reactant | methyl 2-bromo-4-fluorobenzoate | 32.6 mmol, 7.60 g | BrC1=C(C(=O)OC)C=CC(=C1)F | C8H6BrFO2
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper(I) iodide | 65.7 mmol, 12.5 g | [Cu]I
product | 4-fluoro-2-(3-hydroxy-2-propyl-phenoxy)benzoic acid methyl ester | 1.45 g, 15% | COC(C1=C(C=C(C=C1)F)OC1=C(C(=CC=C1)O)CCC)=O | C17H17FO4
